US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and hydroxymethylcyclopropane, there is obtained cyclopropylmethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 80°-83° C., mass spectrum m/e: M+ 292 (2), 237 (80), 194 (100);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | hydroxymethylcyclopropane | OCC1CC1 | C4H8O
product | cyclopropylmethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC3CC3)=N | C19H20N2O
